US06638927B2
A mixture of 1-(hydroxyimino)-2-methoxycyclohexane (1.05 mmol) and Raney Nickel (0.5 g) in ethanol (30 mL) was hydrogenated (90 psi) at room temperature for 2 days. The mixture was filtered through a pad of Celite, washed with MeOH, and concentrated. The residue was dissolved in MeOH, treated with HCl (4 N in dioxane, 4 mmol), and concentrated to give 2-methoxycyclohexylamine hydrochloride.

reactant | 1-(hydroxyimino)-2-methoxycyclohexane | 1.05 mmol | ON=C1C(CCCC1)OC | C7H13NO2
reactant | HCl | 4 mmol, 4 N | Cl | ClH
catalyst | Raney Nickel | 0.5 g | [Ni] | Ni
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 2-methoxycyclohexylamine hydrochloride | Cl.COC1C(CCCC1)N | InChI=1S/C7H15NO.ClH/c1-9-7-5-3-2-4-6(7)8;/h6-7H,2-5,8H2,1H3;1H
